US07084155B2
Preparation of 3-cyano-2-picoline
To a mixture of 3-cyano-2-chloro-pyridine (422 mg, 3.05 mmol), methylboronic acid (209 mg, 3.49 mmol) and K2CO3 (1.22 g, 8.83 mmol) in degassed dioxane (5 mL) under argon was added Pd(PPh3)4 (222 mg, 0.19 mmol) and the mixture stirred at reflux over the weekend. The reaction was cooled to room temperature, diluted with CH2Cl2 (20 mL) and filtered through Celite, washing the cake with CH2Cl2 and MeOH. The filtrate was concentrated in vacuo and purified by column chromatography on silica gel (Hexanes/ethyl acetate, 9:1 then 4:1) to afford the desired product (166 mg, 46%) as a white solid. 1H NMR (CDCl3): δ 2.78 (s, 3H), 7.25 (dd, 1H, J=9, 6 Hz), 7.90 (dd, 1H, J=6, 3 Hz), 8.69 (d, 1H, J=3 Hz).

reactant | 3-cyano-2-chloro-pyridine | 3.05 mmol, 422 mg | C(#N)C=1C(=NC=CC1)Cl | C6H3ClN2
reactant | methylboronic acid | 3.49 mmol, 209 mg | CB(O)O | CH5BO2
reactant | K2CO3 | 8.83 mmol, 1.22 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.19 mmol, 222 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-cyano-2-picoline | 166 mg, 46% | C(#N)C=1C(=NC=CC1)C | C7H6N2
